reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4]([O:5][C:6]([H:16])([H:17])[H:18])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5]([C:6]([H:16])([H:17])[H:18])[H:12],68.4578431549554
[C:1]([C:2]1([H:10])[C:3]([H:11])=[C:4]1[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:12][H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],32.238802095523695
[C:1]([C:2]([C:3]([O:4][C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:3](=[O+:4][C:5]([H:13])([H:14])[H:15])[H:12].[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8],84.02252114316741
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C+:1](=[C:2]=[C-:3][N:5]([C:4]([H:7])([H:8])[H:9])[H:10])[H:6],71.91683521658591
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])/[C:5]1=[N:6]/[H:8],100.234474459518
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C+:1]([C@:4]([C:3]([O:2][H:7])([H:9])[H:10])([O-:5])[H:11])([H:6])[H:8],88.7846789546697
[C:1]([C@@:2]([O:3][H:12])([C:4]([O:5][C:6](=[O:7])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:15])([H:11])[H:14])([H:8])([H:9])[H:10].[H:12][H:13],93.94890322642759
[C:1](=[C:2]1[O:3][O:6][C:5]([H:7])([H:11])[N:4]1[H:10])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],42.1051896923434
[C-:2]#[O+:3].[C-:4]#[O+:5].[C:1]([N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],95.5798022495895
[O+:1](=[C-:2][H:7])[C:3]#[C:4][C:5]#[N:6]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],24.0640466221775
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@:2]([C:3]#[N:4])([H:11])[C@@:5]1([O:6][H:10])[C:7]([H:12])([H:13])[H:14],85.02121551750741
[C:1]([C:2]([C:3]([O:7][C:6](=[O:5])[H:15])([H:11])[H:12])=[C:4]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],63.13885992683686
[C:1]([O:2][C:3](/[C:4](=[C:5](/[O:6][H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],54.838467711923904
[C-:3]#[O+:4].[C:1]([O:2][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],81.49689357299269
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([H:9])[H:11])([O+:5]=[C-:4][C:6]#[C:7][H:15])([H:8])[H:10],111.784875660033
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2]([O:3][O:7][C:6](=[O:5])[H:12])=[C:4]([H:10])[H:11])([H:8])[H:9],103.004611232381
[C:1]([O:2][H:19])([H:8])([H:9])[H:10].[C:3]([C:4]([H:12])([H:13])[H:14])([C@:5]1([H:15])[C:6]([H:17])([H:18])[O:7]1)([H:11])[H:16]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],60.774864053851694
[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[O:3]([C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:8]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.019716832711
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5](=[C:6]=[C:7]([H:12])[H:14])[H:13])([H:10])[H:11])[H:9])[H:8],80.4756685866393
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[N+:6]#[C-:5])([H:7])([H:8])[H:9],60.46482774530911
[O+:1](=[C:2]([N:3]([C-:4]([H:9])[H:10])[H:8])[H:7])[C:5]#[N:6]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7],15.165247129836601
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:6](=[C:5])[H:11])([H:9])[H:10])([H:7])[H:8],59.284265297344504
[O:1]=[C:2]([C:4]1=[C:3]2[C@@:5]1([H:8])[O:6]2)[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],52.0791108424863
[C:1](/[C:2]([O:3][H:11])=[C:4](/[O:5][H:12])[C:6]#[C:7][H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],59.514010324904994
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[N+:7]#[C-:6])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([O:5][H:16])([H:14])[H:15])[C:6]#[N:7])([H:8])([H:9])[H:10],42.30963681321649
